US05091432
Synthesis of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-[(2-hydroxyethyl)amino] ethyl]propanamide (AIT-0048)
0.500 (4,80 mmol) 2-(2-aminoethylamino)ethanol and 0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) were heated at 120° C. with stirring in a 10 ml round bottom flask for one hour. The reaction mixture was chromatographed on a 15 g silica-gel column using an eluant of 60% methanol/40% ethyl acetate. After 200 ml of solvent had passed through column, the eluant was changed to 80% methanol/20% ethyl acetate and finally to 100% methanol. The fractions containing the product were combined and evaporated to yield a colorless oil. The oil was treated with 50 ml ether and 5 ml methanol and was agitated with a spatula. The oil was allowed to stand overnight and the resulting white solid was obtained by filtration (120 mg). The solid was washed with ether and was found to be somewhat hygroscopic. Yield: 38%.

reactant | 2-(2-aminoethylamino)ethanol | NCCNCCO | C4H12N2O
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-[(2-hydroxyethyl)amino] ethyl]propanamide | Yield: 38% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCNCCO | C12H18N6O3
